US05712285
Step 3: 4-(1-Phenyl-1,2,3-triazol-4-yl)-1,2,3,6-tetrahydropyridine
To a solution of 1-tert-butoxycarbonyl-4-(1-phenyl-1,2,3-triazol-4-yl)-1,2,3,6-tetrahydropyridine (816 mg, 2.5 mmol) in dichloromethane (10 ml) was added trifluoroacetic acid (10 ml) and the reaction stirred at room temperature for 35 minutes. The solvent was evaporated in vacuo and the residue basfied by addition of aqueous sodium hydroxide (1M, 30 ml). Water (30 ml) was added and the mixture extracted with dichloromethane (3×30 ml). The combined organic layers were washed with saturated brine (20 ml), dried (K2CO3) and evaporated in vacuo to yield the title compound as a buff solid (486 mg, 86%). δH (CDCl3) 2.59-2.53 (2H, br s, tetrahydropyridinyl CH2), 3.14 (2H, t, J 5.7 Hz, tetrahydropyridinyl CH2), 3.56-3.58 (2H, br s, tetrahydropyridinyl CH2), 6.60 (1H, br s, tetrahydropyridinyl 5-H), 7.40-7.45 (1H, m, ArH), 7.50-7.54 (2H, m, ArH), 7.72-7.75 (2H, m, ArH), 7.84 (1H, s, triazolyl 5-H).

reactant | 1-tert-butoxycarbonyl-4-(1-phenyl-1,2,3-triazol-4-yl)-1,2,3,6-tetrahydropyridine | 2.5 mmol, 816 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1N=NN(C1)C1=CC=CC=C1 | C18H22N4O2
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(1-Phenyl-1,2,3-triazol-4-yl)-1,2,3,6-tetrahydropyridine | C1(=CC=CC=C1)N1N=NC(=C1)C=1CCNCC1 | C13H14N4
